Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1][C:2]([H:3])=[C:4]=[C:5]1[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-0.12919333706
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.05638986218
[H:1][O:2][C@@:3]12[C:4][C@:5]1([C:6]([H:7])([H:8])[H:9])[C:10]2[H:11]>>[H:1][O:2][C:3]#[C:4][C:5]([C:6]([H:7])([H:8])[H:9])=[C:10][H:11],-0.0729502165505
[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-3.70289473232
[H:1][C:2][O:3][C:4]([H:5])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.42167328163
[O:1][O:2][C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],2.63257475301
[H:6].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[H:6],-2.0652683836400003
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[H:17],4.34412542956
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8],1.50729367252
[C:9]([H:10])#[C:11][H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:11][H:12],-2.09047393727
[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.27792848159
[O:1]=[C:2]=[C:3][C:4][O:5][C:6]([H:7])[H:8]>>[C:3]#[C:4][O:5][C:6]([H:7])[H:8].[O:1]=[C:2],2.27147214211
[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8][H:9]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],-3.8872099856
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])[O:7][C:8]([H:9])([H:10])[H:11].[H:6],3.30696968533
[O:1]=[C:2]=[C:7]([H:8])[C:9]([H:10])[H:11].[O:3]=[C:4]([H:5])[H:6]>>[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-0.8367032795899999
[H:1][C:2]#[C:3][O:4][H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.60476282287
[H:1][C:2]([H:3])=[C:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])=[C:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.56387450846
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2],2.85004347842
[C:10]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-6.41453660864
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.10959313442
[H:8].[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])=[O:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.7651761102900014
[C:2]#[C:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.917678518230001
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]([H:6])([H:7])=[C:8]=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[C:2]([H:3])([H:4])=[C:5],-1.51792459534
[O:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1][C:2][C:3],4.00917415184
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.5551063997300005
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8]>>[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.67514938374
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[O:10][H:11].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11],1.92163964209
[H:1][C:2]#[C:3].[O:4][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9][H:10],-5.1338035845
